US09340538B2
Step A: Ethyl 4-(2-chloro-4-fluorophenyl)-6-methyl-2-(pyrazin-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Pyrazine-2-carboximidamide hydrochloride (5 g, 31.5 mmol) was reacted with 2-chloro-4-fluorobenzaldehyde (5 g, 31.5 mmol) and ethyl 3-oxobutanoate (4.1 g, 31.5 mmol) according to the procedure as described in Example 1, Step A to give the title compound as a yellow solid (4.84 g, 41%). The compound was characterized by the following spectroscopic data:

reactant | Pyrazine-2-carboximidamide hydrochloride | 31.5 mmol, 5 g | Cl.N1=C(C=NC=C1)C(N)=N
reactant | 2-chloro-4-fluorobenzaldehyde | 31.5 mmol, 5 g | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | ethyl 3-oxobutanoate | 31.5 mmol, 4.1 g | O=C(CC(=O)OCC)C | C6H10O3
product | Ethyl 4-(2-chloro-4-fluorophenyl)-6-methyl-2-(pyrazin-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 4.84 g, 41% | ClC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C1=NC=CN=C1 | C18H16ClFN4O2
